US07495007B2
To a solution of 5-iodo-2-methyl benzoic acid (24 g, 91 mmol) (AKSCI) in anhydrous tetrahydrofuran (100 mL) at 0° C. was added borane tetrahydrofuran (1 M, 250 mL, 250 mmol) dropwise. The reaction mixture was then stirred at room temperature for 2 h. The mixture was concentrated and residue was partitioned between ethyl acetate and water. Organic layer was separated, washed with brine, dried over MgSO4, and concentrated to give an off-white solid. The solid was dissolved into dichloromethane (300 mL), and activated MnO2 (20 g) was added. The mixture was then heated at reflux for 4 h, cooled to room temperature, and filtered through a short pad of celite. The filtrated was concentrated and purified by chromatography (EtOAc:hexanes=1;8) to give 5-Iodo-2-methyl-benzaldehyde as an off-white solid (Yield 5.5 g, 25%).

reactant | 5-iodo-2-methyl benzoic acid | 91 mmol, 24 g | IC=1C=CC(=C(C(=O)O)C1)C | C8H7IO2
reactant | borane tetrahydrofuran | 250 mmol, 1 M, 250 mL | O1CCCC1.B
reactant | dichloromethane | 300 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
catalyst | MnO2 | 20 g | O=[Mn]=O
product | 5-Iodo-2-methyl-benzaldehyde | Yield 5.5 g, 25% | IC=1C=CC(=C(C=O)C1)C | C8H7IO
